US07666864B2
Step 1: 6-Bromo-2-(chloromethyl)pyridine.
N-Butyllithium (10 mL, 25.32 mmol, 2.5 M solution in hexanes) was added dropwise over a period of 20 min at −78° C. to a degassed solution of 2,5-dibromopyridine (5.0 g, 21.1 mmol) in toluene (250 mL), and the solution was then stirred for 2 h at −78° C. DMF (2.1 mL, 27.43 mmol) was then added dropwise, and the reaction was left at −78° C. for 1 h. MeOH (20 mL) and NaBH (1.60 g, 42.2 mmol) were then added at −78° C., and the reaction mixture was allowed to slowly reach room temperature and stirring was continued for 16 h. Saturated aqueous NH4Cl (100 mL) was added at −10° C. and stirring was continued for 30 min. The two layers were separated. The toluene layer was concentrated and dried in vacuo to give 6-bromo-2-pyridinyl)methanol (3.74 g, 94%) as a light yellow oil. A solution of this oil (3.74 g, 19.8 mmol) in CHCl3 (250 mL) was treated with SOCl2 (25 mL) at 0° C., then the reaction mixture was refluxed for 1 h, poured into ice-water, and extracted into iPr2O. The combined organic layers were washed with brine, dried (MgSO4) and concentrated to dryness, to give the title compound as a yellow oil (3.42 g, 83%). APCI MS m/z 205.9, 207.9 (M+H). 1H NMR (400 MHz, CDCl3) δ 7.59 (t, J=7.7 Hz, 1H), 7.47 (d, J=7.4 Hz, 1H), 7.44 (d, J=7.9 Hz, 1H), 4.63 (s, 2H).

reactant | N-Butyllithium | 25.32 mmol, 2.5 M, 10 mL | [Li+].CCC[CH2-]
reactant | 2,5-dibromopyridine | 21.1 mmol, 5.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | DMF | 27.43 mmol, 2.1 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | SOCl2 | 25 mL | O=S(Cl)Cl | Cl2OS
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 20 mL | CO | CH4O
product | 6-Bromo-2-(chloromethyl)pyridine | 3.42 g, 83% | BrC1=CC=CC(=N1)CCl | C6H5BrClN
